US05872118
This compound was prepared in an analogous manner to (E)-2-(4,6difluoro-1-indanylidene)acetic acid in Example 5e by substituting 2-(5-fluoro-1-hydroxy-1-indanyl)acetic acid(14.70 g, 0.069 mol) for 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetic acid. Recrystallization from acetonitrile: 2-propanol mixtures gave 9.05 g (68%) of (E)-2-(5-fluoro-1-indanylidene)acetic acid as a white solid: m.p., 240°-242° C.;

reactant | (E)-2-(4,6difluoro-1-indanylidene)acetic acid | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)O | C11H8F2O2
reactant | 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetic acid | FC1=C2CCC(C2=CC(=C1)F)(O)CC(=O)O | C11H10F2O3
product | (E)-2-(5-fluoro-1-indanylidene)acetic acid | 9.05 g, 68% | FC=1C=C2CC/C(/C2=CC1)=C\C(=O)O | C11H9FO2
